US04202895
To a suspension of 5.13 g of 4-phenyl-6-chloro-2(1H)-quinazolinone in 60 ml of dimethylformamide was added 0.85 g 62% sodium hydride, and the resulting mixture was stirred at 100° C. for 30 minutes. Thereafter, 10.0 g of 2,2,2-trifluoroethyl iodide was added and the mixture was stirred at 140° C. for 8 hours. After cooling, the reaction mixture was poured into 300 ml of water and the resulting mixture was extracted with chloroform. The chloroform layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The oily residue was absorbed on a silica gel column, eluted with chloroform to obtain 3.5 g of 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-2(1H)-quinazolinone which was recrystallized from ethanol to give pale yellow leaflets melting at 185.0°-186.0° C., and 2.0 g of 2-(2,2,2-trifluoroethoxy)-4-phenyl-6-chloroquinazoline which was recrystallized from ethanol to give pale yellow needles melting at 113.0°-114.0° C.

reactant | 4-phenyl-6-chloro-2(1H)-quinazolinone | 5.13 g | C1(=CC=CC=C1)C1=NC(NC2=CC=C(C=C12)Cl)=O | C14H9ClN2O
reactant | sodium hydride | 0.85 g | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl iodide | 10.0 g | FC(CI)(F)F | C2H2F3I
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-2(1H)-quinazolinone | 3.5 g | FC(CN1C(N=C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)=O)(F)F | C16H10ClF3N2O
